US04536505
A solution of 8.0 g of ethyl 3-(3-indolyl)propionate and 6.3 g of 3-bromopyridine in 100 ml of pyridine is refluxed with 5.0 g of copper oxide and 10 g of anhydrous potassium carbonate for 48 hours. Evaporation and chromatography on 300 g of silica with 1:1 ethyl ether:hexane as eluant yields 3-[2-(ethoxycarbonyl)ethyl]-N-(3-pyridyl)indole as an oil; Rf =0.2, IR (CH2Cl2) 1725 cm-1.

reactant | ethyl 3-(3-indolyl)propionate | 8.0 g | N1C=C(C2=CC=CC=C12)CCC(=O)OCC | C13H15NO2
reactant | 3-bromopyridine | 6.3 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
catalyst | copper oxide | 5.0 g | [Cu]=O
product | 3-[2-(ethoxycarbonyl)ethyl]-N-(3-pyridyl)indole | C(C)OC(=O)CCC1=CN(C2=CC=CC=C12)C=1C=NC=CC1 | C18H18N2O2
